US07018988B2
(2S,4EZ)-4-(tert-butoxyimino)-N-[2-(diethylamino)ethyl]-1-(diphenylacetyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 80% purity by LC/MS. MS(ESI+): m/z=493.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(tert-butoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC(C)(C)C)C(=O)O | C14H24N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-4-(tert-butoxyimino)-N-[2-(diethylamino)ethyl]-1-(diphenylacetyl)-2-pyrrolidinecarboxamide | C(C)(C)(C)ON=C1C[C@H](N(C1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)NCCN(CC)CC | C29H40N4O3
